US07507740B2
(i) Production of {4-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]phenyl}methanol
4-Chloro-5H-pyrrolo[3,2-d]pyrimidine (307 mg) was dissolved in N,N-dimethylformamide (2 mL), potassium carbonate (304 mg) was added, and the mixture was stirred at room temperature for 30 min. 4-Hydroxymethylbenzyl chloride (377 mg) was added, and the mixture was stirred at room temperature for 16 hrs. After diluting with water (30 mL), the mixture was extracted with ethyl acetate/tetrahydrofuran (3:1, 80 mL×2). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→0:100) to give the title compound (383 mg) as a powder.

reactant | 4-Chloro-5H-pyrrolo[3,2-d]pyrimidine | 307 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | potassium carbonate | 304 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Hydroxymethylbenzyl chloride | 377 mg | OCC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | {4-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]phenyl}methanol | 383 mg | ClC=1C2=C(N=CN1)C=CN2CC2=CC=C(C=C2)CO | C14H12ClN3O
